US03989707
A mixture of 4.7 parts of 4-chloro-1,1'-butylidene bis[4-chlorobenzene], 3 parts of 5-chloro-1-(4-piperidyl)- 2-benzimidazolinone, 3.7 parts of sodium carbonate and 100 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic layer is dried, filtered and evaporated. The residue is purified by column-chromatography over silicagel, using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of 2-propanol and 2,2'-oxybispropane, yielding 5-chloro-1-{1-[4,4-bis(4-chlorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 165.4° C.

reactant | 4-chloro-1,1'-butylidene bis[4-chlorobenzene] | ClCCCC(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C16H15Cl3
reactant | 5-chloro-1-(4-piperidyl)- 2-benzimidazolinone | ClC1=CC2=C(N(C(N2)=O)C2CCNCC2)C=C1 | C12H14ClN3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
solvent | water | O | H2O
product | 5-chloro-1-{1-[4,4-bis(4-chlorophenyl)butyl]-4-piperidinyl}-1,3-dihydro-2H-benzimidazol-2-one | ClC1=CC2=C(N(C(N2)=O)C2CCN(CC2)CCCC(C2=CC=C(C=C2)Cl)C2=CC=C(C=C2)Cl)C=C1 | C28H28Cl3N3O
